US08067590B2
1a [4-(2-Chloro-ethyl)-phenyl]-methanol
To 100 g (525 mmol) 4-(2-chloro-ethyl)-benzoic acid in 1.0 L of THF is added 170 g (1050 mmol) CDI in small portions. The mixture is stirred at 60° C. until the gas evolution ceased. After cooling to RT, the mixture is slowly added into a solution of 39.7 g (1050 mmol) sodium borohydride in ice water and is stirred for 3 h at RT. The solution is acidified with diluted HCL and extracted twice with EtOAc. The organic phase is separated and dried over MgSO4. After evaporation of the solvent, the residue is dissolved in water/EtOAc. The aqueous phase is separated, washed once with EtOAc and the combined organic phase is dried over MgSO4. After evaporation of the solvent the residue is purified by silica gel column chromatography with PE/EtOAc (7:3) as eluent.

reactant | 4-(2-chloro-ethyl)-benzoic acid | 525 mmol, 100 g | ClCCC1=CC=C(C(=O)O)C=C1 | C9H9ClO2
reactant | CDI | 1050 mmol, 170 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | sodium borohydride | 1050 mmol, 39.7 g | [BH4-].[Na+]
solvent | THF | 1.0 L | C1CCOC1 | C4H8O
product | [4-(2-Chloro-ethyl)-phenyl]-methanol | ClCCC1=CC=C(C=C1)CO | C9H11ClO
